US09108957B2
To a solution of diastereopure 3-((R)-1-phenylethylamino)-2-(4-bromophenyl)propyl acetate (2.85 g, 7.57 mmol) in methanol (30.3 ml) was added 1.0N-sodium hydroxide (30.3 ml, 30.3 mmol) at 0° C. The mixture was stirred at room temperature for 3 hours. The mixture was partitioned between saturated ammonium chloride solution and chloroform, and the organic layer was dried over sodium sulfate. The solvent was evaporated under reduced pressure to afford diastereopure 3-((R)-1-phenylethylamino)-2-(4-bromophenyl)propan-1-ol as white solid (2.40 g, 95%).

reactant | 3-((R)-1-phenylethylamino)-2-(4-bromophenyl)propyl acetate | 7.57 mmol, 2.85 g | C(C)(=O)OCC(CN[C@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)Br | C19H22BrNO2
reactant | sodium hydroxide | 30.3 mmol, 30.3 ml | [OH-].[Na+]
solvent | methanol | 30.3 ml | CO | CH4O
product | 3-((R)-1-phenylethylamino)-2-(4-bromophenyl)propan-1-ol | 2.40 g, 95% | C1(=CC=CC=C1)[C@@H](C)NCC(CO)C1=CC=C(C=C1)Br | C17H20BrNO
